US07786132B2
(vi) 1-(2-(5-Bromo-4-(5-isopropyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
1-(2-(5-Bromo-4-(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione (0.15 g, 032 mmol) was treated with acetone (1 mL), sodium triacetoxyborohydride (0.136 g, 0.64 mmol) in dicholoethane (5 mL). The reaction was stirred at room temperature overnight. The mixture was diluted with dichloromethane and water. The layers were separated and the organic layer was washed with a saturated aqueous solution of sodium bicarbonate, water and brine. The mixture was dried with sodium sulfate and purified by preparative HPLC. Yield=0.05 g. MS (M+H)+ 507/509.

reactant | 1-(2-(5-Bromo-4-(4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 0.15 g | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC=2CNCCC2S1 | C18H21BrN6O2S
reactant | acetone | 1 mL | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 0.64 mmol, 0.136 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-(2-(5-Bromo-4-(5-isopropyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC=2CN(CCC2S1)C(C)C | C21H27BrN6O2S
